US06831106B1
(a) Ethyl 3′-hydroxybiphenyl-3-carboxylate
In a manner similar to that of Example 1(h), by reaction of 2 g (13.3 mmol) of 3-methoxymethoxyphenylboronic acid with 1.83 mL (11 mmol) of ethyl 3-iodobenzoate, 1.9 g (72%) of the expected ethyl ester are obtained.

reactant | 3-methoxymethoxyphenylboronic acid | 13.3 mmol, 2 g | COCOC=1C=C(C=CC1)B(O)O | C8H11BO4
reactant | ethyl 3-iodobenzoate | 11 mmol, 1.83 mL | IC=1C=C(C(=O)OCC)C=CC1 | C9H9IO2
product | Ethyl 3′-hydroxybiphenyl-3-carboxylate | OC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OCC | C15H14O3
